US07687491B2
(4b) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-2-carboximidamide
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1d) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)thiophene-2-carbonitrile (1.3 g, 5.0 mmol) that was obtained in Example 4 (4a) and a 40% aqueous solution of hydroxylamine (0.7 ml). Subsequently, the crude product of the title compound thus obtained was purified by recrystallization from a mixed solvent of ethyl acetate and hexane to afford the title compound (1.2 g) in a yield of 81% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)thiophene-2-carbonitrile | 5.0 mmol, 1.3 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(S1)C#N | C12H19NOSSi
reactant | hydroxylamine | 0.7 ml | NO | H3NO
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-2-carboximidamide | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(S1)C(N)=NO | C12H22N2O2SSi
